US08877782B2
[6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-morpholin-4-yl-methanone
As described for example 147, 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid (93 mg, 0.3 mmol) was converted, using morpholine instead of cyclopropylmethylamine, to the title compound (58 mg, 51%) which was obtained as an off white solid. MS: m/e=381.0 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.3 mmol, 93 mg | CC1=C(C(=NO1)C1=CC=NC=C1)COC1=NC=C(C(=O)O)C=C1 | C16H13N3O4
reactant | morpholine | N1CCOCC1 | C4H9NO
product | [6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-morpholin-4-yl-methanone | 58 mg, 51% | CC1=C(C(=NO1)C1=CC=NC=C1)COC1=CC=C(C=N1)C(=O)N1CCOCC1 | C20H20N4O4
